US07714009B2
2-(2,4-Dimethylphenoxy)-7-nitro-1,3-benzothiazole
A mixture of 2-bromo-7-nitro-1,3-benzothiazole (200 mg, 0.772 mmol), 2,4-dimethylphenol (0.093 ml, 0.772 mmol) and potassium carbonate (128 mg, 0.772 mmol) in DMF (10 ml) was stirred at 80° C. for 15 h. The mixture was diluted with water and extracted with ethyl acetate (AcOEt). The extract was washed with saturated NaHCO3 solution and brine, dried over Magnesium sulfate and concentrated under vacuum. The residue was purified by chromatography eluting with 10% AcOEt in n-hexane to afford 226 mg of the title compound.

reactant | 2-bromo-7-nitro-1,3-benzothiazole | 0.772 mmol, 200 mg | BrC=1SC2=C(N1)C=CC=C2[N+](=O)[O-] | C7H3BrN2O2S
reactant | 2,4-dimethylphenol | 0.772 mmol, 0.093 ml | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | potassium carbonate | 0.772 mmol, 128 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(2,4-Dimethylphenoxy)-7-nitro-1,3-benzothiazole | 226 mg | CC1=C(OC=2SC3=C(N2)C=CC=C3[N+](=O)[O-])C=CC(=C1)C | C15H12N2O3S
